### PR TITLE
Add Erdős Problem 1147 (quadratic recurrence sets as additive bases), link the formal disproof

### LINKED ISSUE #6265: Erdős Problem 1147
### What is the Erdős problem?

https://www.erdosproblems.com/1147

Let $\alpha>0$ be an irrational number. Is the set $A=\{ n\geq 1: \| \alpha n^2\| < 1/\log n\}$, where $\|\cdot\|$ denotes the distance to the nearest integer, an additive basis of order $2$?

Status: disproved (Konieczny: false for $\alpha = \sqrt 2$ and for almost every $\alpha$). A formal proof exists in plby/lean-proofs (`Erdos1147.not_erdos_1147`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6265.

### What changed
Adds `FormalConjectures/ErdosProblems/1147.lean` with `recurrenceSet α ε = {n ≥ 1 | ‖α n²‖ < ε n}` (using `distToNearestInt`) and:
- `erdos_1147` (`research solved`, `answer(False)`): it is false that for every irrational `α > 0` the set with `ε n = 1 / log n` is an asymptotic additive basis of order `2` (Konieczny [Ko16b]). Linked to plby/lean-proofs `Erdos1147.not_erdos_1147` (Codex and GPT-5.6 Sol; Mathlib-only, via an odd Pell sequence for `√2`).
- `erdos_1147.variants.sqrt_two` (also linked): the explicit counterexample `α = √2`.
- `erdos_1147.variants.almost_every`: Konieczny's almost-everywhere statement for any `ε → 0`.

### How checked
- Rebuilt plby's file against this repo's Mathlib (its `Erdos868` import only supplies `Set.IsAsymptoticAddBasisOfOrder`, which is this repo's definition): `#print axioms Erdos1147.not_erdos_1147` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against both linked statements on top of a renamed copy, same axioms:

<details>
<summary>Bridge</summary>

```lean
namespace Bridge1147

lemma recurrenceSet_eq (α : ℝ) (ε : ℕ → ℝ) :
    Erdos1147.recurrenceSet α ε = Erdos1147Plby.recurrenceSet α ε := by
  ext n
  simp only [Erdos1147.recurrenceSet, Erdos1147Plby.recurrenceSet, Set.mem_ofPred_eq,
    Erdos1147Plby.circleDist_eq_round, distToNearestInt]

lemma problemSet_eq (α : ℝ) :
    Erdos1147.recurrenceSet α (fun n ↦ 1 / Real.log n) = Erdos1147Plby.problemSet α := by
  ext n
  simp only [Erdos1147.recurrenceSet, Erdos1147Plby.problemSet, Set.mem_ofPred_eq,
    Erdos1147Plby.circleDist_eq_round, distToNearestInt]

theorem erdos_1147_bridge : type_of% Erdos1147.erdos_1147 := by
  show False ↔ _
  simp only [false_iff]
  intro h
  refine Erdos1147Plby.not_erdos_1147 fun α hα hirr => ?_
  rw [← problemSet_eq]
  exact h α hα hirr

theorem erdos_1147_sqrt_two_bridge : type_of% Erdos1147.erdos_1147.variants.sqrt_two := by
  rw [problemSet_eq]
  exact Erdos1147Plby.sqrtTwo_not_basis

end Bridge1147
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1147»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1147.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1147.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
